US05719141
s) N-Benzyloxycarbonyl-3(R,S)-methoxycarbonyl-1,2,3,4-tetrahydroquinoline
1.87 g of N-benzyloxycarbonyl-1,2,3,4-tetrahydroquinoline-3(R,S)-carboxylic acid and 5 ml of N,N-dimethylformamide dimethyl acetal are heated at 80° C. in 20 ml of toluene for 4 h. The reaction mixture is concentrated and the residue is purified by means of FC (50 g of silica gel, mobile phase D): Rf (D)=0.29; MS: (M)+ =325.

reactant | N-benzyloxycarbonyl-1,2,3,4-tetrahydroquinoline-3(R,S)-carboxylic acid | 1.87 g | C(C1=CC=CC=C1)OC(=O)N1CC(CC2=CC=CC=C12)C(=O)O | C18H17NO4
reactant | N,N-dimethylformamide dimethyl acetal | 5 ml | COC(N(C)C)OC | C5H13NO2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-Benzyloxycarbonyl-3(R,S)-methoxycarbonyl-1,2,3,4-tetrahydroquinoline | C(C1=CC=CC=C1)OC(=O)N1CC(CC2=CC=CC=C12)C(=O)OC | C19H19NO4
